US08957203B2
Step 2: Preparation of tert-butyl (1-methylcyclopropyl)sulfonylcarbamate
A solution of tert-butyl cyclopropylsulfonylcarbamate (4.3 g, 20 mmol) was dissolved in dry THF (100 ml) and cooled to −78° C. To this solution was added n-BuLi (17.6 ml, 44 mmol, 2.5 M in hexane) slowly. The reaction mixture was allowed to warm to room temperature over a period of 1.5 h. This mixture was then cooled to −78° C., and a solution of n-BuLi (20 mmol, 8 ml, 2.5M in hexane) was added, stirred for 1 h and a neat solution of methyl iodide (5.68 g, 40 mmol) was added. The reaction mixture was allowed to warm to room temperature for overnight, quenched with aqueous saturated NH4Cl (100 ml) at room temperature. It was extracted with EtOAc (100 ml). The combined organic layer was washed with brine dried on Na2SO4, filtered and evaporated under reduced pressure to give a yellow oil which was crystallized from hexane to afford the product as a slightly yellow solid. (3.1 g, 81%). 1H NMR (400 MHz, DMSO-d6): δ ppm 10.97 (s, 1H), 1.44 (s, 12H), 1.35-1.33 (m, 2H), 0.93-0.91 (m, 2H).

reactant | tert-butyl cyclopropylsulfonylcarbamate | 20 mmol, 4.3 g | C1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C8H15NO4S
reactant | n-BuLi | 44 mmol, 2.5 M, 17.6 ml | [Li]CCCC
reactant | n-BuLi | 20 mmol, 2.5M, 8 ml | [Li]CCCC
reactant | methyl iodide | 40 mmol, 5.68 g | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl (1-methylcyclopropyl)sulfonylcarbamate | CC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C9H17NO4S
